US05854275
To a suspension of sodium hydride (3.22 g, 0.134 mole) in N,N-dimethylformamide (DMF)(150 mL) was added tert-butyl ethyl malonate (22.9 g, 0.122 mole). The resulting mixture was stirred at room temperature for 1 hour and then a solution of (2-bromoethoxymethyl)benzene (28.8 g, 0.134 mole) in DMF (150 mL) was added dropwise. After stirring at room temperature overnight, the mixture was poured into water (1000 mL) and extracted with ethyl acetate. The ethyl acetate layer was washed with water and brine, dried over magnesium sulfate and concentrated to an oil which was chromatographed on silica gel eluting with hexane and then 5% ethyl acetate in hexane to afford 2-(2-benzyloxyethyl)malonic acid tert-butyl ester ethyl ester as an oil (31.4 g, 80% yield).

reactant | sodium hydride | 0.134 mole, 3.22 g | [H-].[Na+]
reactant | tert-butyl ethyl malonate | 0.122 mole, 22.9 g | C(CC(=O)OCC)(=O)OC(C)(C)C | C9H16O4
reactant | (2-bromoethoxymethyl)benzene | 0.134 mole, 28.8 g | BrCCOCC1=CC=CC=C1 | C9H11BrO
reactant | water | 1000 mL | O | H2O
solvent | N,N-dimethylformamide | 150 mL | CN(C=O)C | C3H7NO
solvent | DMF | 150 mL | CN(C=O)C | C3H7NO
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(2-benzyloxyethyl)malonic acid tert-butyl ester ethyl ester | 31.4 g, 80% yield | C(C)OC(C(C(=O)OC(C)(C)C)CCOCC1=CC=CC=C1)=O | C18H26O5
